US04789680
6.5 g (35 millimoles) of 1-(2,6-difluorophenyl)ethyl azide and 2.45 g (35 millimoles) of propinecarboxylic acid in 50 ml of toluene are heated for 24 hours to 60°-70° C. The cooled reaction mixture is extracted with 100 ml of 1N sodium hydroxide solution and the extract is acidified with hydrochloric acid to give 1-[1-(2,6-difluorophenyl)ethyl-1H-1,2,3-triazole-4-carboxylic acid with a melting point of 135°-138° C. (dec.). 7.1 g (26.6 millimoles) of 1-[1-(2,6-difluorophenyl)ethyl]-1H-1,2,3-triazole-4-carboxylic acid, 150 ml of ethanol and 1 ml of sulfuric acid are heated for 10 hours to reflux. Working up gives ethyl 1-[1-(2,6-difluorophenyl)ethyl]-1H-1,2,3-triazole-4-carboxylate with a melting point of 118°-121° C.

reactant | 1-[1-(2,6-difluorophenyl)ethyl]-1H-1,2,3-triazole-4-carboxylic acid | 26.6 millimoles, 7.1 g | FC1=C(C(=CC=C1)F)C(C)N1N=NC(=C1)C(=O)O | C11H9F2N3O2
reactant | sulfuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 150 ml | C(C)O | C2H6O
product | ethyl 1-[1-(2,6-difluorophenyl)ethyl]-1H-1,2,3-triazole-4-carboxylate | FC1=C(C(=CC=C1)F)C(C)N1N=NC(=C1)C(=O)OCC | C13H13F2N3O2
